US04696964
O-Methyl-N-benzylhydroxylamine
The procedure of Example VI is repeated using 15.0 g of O-methylbenzaldoxime, and 20.0 g of sodium cyanoborohydride in 100 ml of methanol. Bulb to bulb distillation of the crude product affords the title compound as a colorless liquid.

reactant | O-methylbenzaldoxime | 15.0 g | CON=CC1=CC=CC=C1 | C8H9NO
reactant | sodium cyanoborohydride | 20.0 g | C(#N)[BH3-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | O-Methyl-N-benzylhydroxylamine | CONCC1=CC=CC=C1 | C8H11NO
